US07049312B1
Synthesis of 2-[(4-Aminophenyl)methylene]-2H-1,4-benzoxazin-3(4H)-one
A catalytic amount of Raney nickel was added portionwise with stirring to a mixture of 2-[(4-nitrophenyl)methylene]-2H-1,4-benzoxazin-3(4H)-one (0.57 g, 0.002 mol) and hydrazine hydrate (1 ml) in ethanol (20 ml). The reaction mixture was refluxed for 3 h, then filtered. The filtrate was evaporated to dryness under reduced pressure. The crude product was purified by re crystallization from ethanol.

reactant | 2-[(4-nitrophenyl)methylene]-2H-1,4-benzoxazin-3(4H)-one | 0.002 mol, 0.57 g | [N+](=O)([O-])C1=CC=C(C=C1)C=C1OC2=C(NC1=O)C=CC=C2 | C15H10N2O4
reactant | hydrazine hydrate | 1 ml | O.NN
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[(4-Aminophenyl)methylene]-2H-1,4-benzoxazin-3(4H)-one | NC1=CC=C(C=C1)C=C1OC2=C(NC1=O)C=CC=C2 | C15H12N2O2
